US05386050
In the same apparatus and procedures as EXAMPLE 1, 12.7 g (0.049 mole) of 3-(2,5-dimethylphenyl)-1,1-dimethoxy-1-silabutane, 13.1 g (0.15 mole) of 1-hexene, and 90 μl of 1% chloroplatinic acid in isopropanol were placed under the dry nitrogen atmosphere. The reactor was refluxed for 3 hours. Vacuum distillation of the reaction products gave 9.4 g (bp, 131°-3° C./0.6 mmHg) of 4,4-dimethoxy-2-(2,5-dimethylphenyl)-4-siladecane.

reactant | 3-(2,5-dimethylphenyl)-1,1-dimethoxy-1-silabutane | 0.049 mole, 12.7 g | CC1=C(C=C(C=C1)C)C(C[SiH](OC)OC)C | C13H22O2Si
reactant | 1-hexene | 0.15 mole, 13.1 g | C=CCCCC | C6H12
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 90 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4,4-dimethoxy-2-(2,5-dimethylphenyl)-4-siladecane | 9.4 g | CO[Si](CC(C)C1=C(C=CC(=C1)C)C)(CCCCCC)OC | C19H34O2Si
